US06432993B1
2-Chloro-4-methoxymethoxy-3,5-dimethylphenol
To 20 ml of an anhydrous tetrahydrofuran suspension containing 1.78 g of sodium hydride (55% by weight), 30 ml of a solution of 8.02 g of 3-chloro-2,6-dimethyl-4-pivaloyloxyphenol in anhydrous tetrahydrofuran were added dropwise, followed by stirring at room temperature for 30 minutes. To the reaction mixture, 3.28 g of chloromethyl methyl ether were added and the mixture was stirred at room temperature for 13 hours. The reaction mixture was then concentrated by evaporation. Water was added to the concentrate, followed by extraction with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. In 30 ml of methanol, 9.30 g of the residue were dissolved. To the resulting solution, 30 ml of a solution of 3.51 g of potassium hydroxide in methanol were added dropwise, followed by stirring at room temperature for 30 minutes. The reaction mixture was concentrated by evaporation. The concentrate was neutralized with 3N hydrochloric acid and sodium bicarbonate, followed by extraction with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was separated and purified by chromatography through a silica gel column (eluting solvent: n-hexane/ethyl acetate=10/1), whereby 5.65 g of the title compound were obtained.

reactant | sodium hydride | 1.78 g | [H-].[Na+]
reactant | 3-chloro-2,6-dimethyl-4-pivaloyloxyphenol | 8.02 g | ClC=1C(=C(C(=CC1OC(C(C)(C)C)=O)C)O)C | C13H17ClO3
reactant | chloromethyl methyl ether | 3.28 g | COCCl | C2H5ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-Chloro-4-methoxymethoxy-3,5-dimethylphenol | 5.65 g | ClC1=C(C=C(C(=C1C)OCOC)C)O | C10H13ClO3
